US05708005
N-[2-(2,6-dimethoxyquinolin-4-yl)ethyl]acetamide
A mixture of N-[2-(2-chloro-6-methoxyquinolin-4-yl)ethyl]acetamide (0.9 g, 3.2 mmol) and sodium methoxide (30 g, 28% methanol solution) in methanol (20 ml) was stirred at 60° C. overnight. The reaction mixture was poured into water, and the organic layer was extracted with ethyl acetate. The extract was washed with saturated brine and water and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure. The resulting residue was purified by column chromatography on silica gel (ethyl acetate) and recrystallized from a mixed solvent of ethyl acetate and hexane to obtain the title compound (0.46 g, 52%).

reactant | N-[2-(2-chloro-6-methoxyquinolin-4-yl)ethyl]acetamide | 3.2 mmol, 0.9 g | ClC1=NC2=CC=C(C=C2C(=C1)CCNC(C)=O)OC | C14H15ClN2O2
reactant | sodium methoxide | 30 g | C[O-].[Na+]
reactant | water | O | H2O
solvent | methanol | 20 ml | CO | CH4O
product | N-[2-(2,6-dimethoxyquinolin-4-yl)ethyl]acetamide | 0.46 g, 52% | COC1=NC2=CC=C(C=C2C(=C1)CCNC(C)=O)OC | C15H18N2O3
